US07498337B2
2-(2-fluorophenyl)-4-formyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbonitrile
5-(2-Fluorophenyl)-4-iodo-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (489 mg), copper (I) cyanide (480 mg), tris(dibenzylideneacetone)dipalladium (0) (49 mg) and 1,1′-bis(diphenylphosphino)ferrocene (89 mg) were mixed in 1,4-dioxane (20 mL), and the mixture was heated under reflux for 3 hr. The reaction mixture was allowed to cool, diluted with ethyl acetate, and filtered. The obtained filtrate was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=2:3→3:7) to give the title compound as a colorless oil (yield 380 mg, about 100%).

reactant | 5-(2-Fluorophenyl)-4-iodo-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 489 mg | FC1=C(C=CC=C1)C1=C(C(=CN1S(=O)(=O)C=1C=NC=CC1)C=O)I | C16H10FIN2O3S
reactant | copper (I) cyanide | 480 mg | [Cu]C#N
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 49 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 89 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(2-fluorophenyl)-4-formyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbonitrile | yield 380 mg, about 100% | FC1=C(C=CC=C1)C=1N(C=C(C1C#N)C=O)S(=O)(=O)C=1C=NC=CC1 | C17H10FN3O3S
